US06753337B2
(4-but-2-ynyloxy-benzenesulfonyl)-acetic acid ethyl ester (10 g, 33.8 mmol) was added to a stirring solution of potassium carbonate (12 g), 18-crown-6 (0.5 g), 2-chloroethyl ether (4.75 ml, 40.5 mmol), and tetrabutyl ammonium bromide (0.5 g) in methyl ethyl ketone (200 ml). The mixture was heated at reflux overnight before the salts were filtered off and the filtrate was concentrated. The residue was dissolved in chloroform and washed with water. The organic layer was dried over Na2SO4, filtered and concentrated. The compound was isolated using silica-gel column chromatography by eluting it with 20% ethyl acetate: hexane solution. Ethyl 4-{[4-(2-butynyloxy)phenyl]sulfonyl}tetrahydro-2H-pyran-4-carboxylate was isolated as a yellow oil (10.06 g). Yield 80%; MS: 367.2 (M+H)+.

reactant | (4-but-2-ynyloxy-benzenesulfonyl)-acetic acid ethyl ester | 33.8 mmol, 10 g | C(C)OC(CS(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C14H16O5S
reactant | potassium carbonate | 12 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 0.5 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 2-chloroethyl ether | 40.5 mmol, 4.75 ml | ClCCOCCCl | C4H8Cl2O
catalyst | tetrabutyl ammonium bromide | 0.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methyl ethyl ketone | 200 ml | C(C)C(=O)C | C4H8O
product | Ethyl 4-{[4-(2-butynyloxy)phenyl]sulfonyl}tetrahydro-2H-pyran-4-carboxylate | Yield 80% | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCOCC1)C(=O)OCC | C18H22O6S
